Name:  ___               Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
Statins-Hmg-Coa Reductase Inhibitors / varenicline
 
Attending: ___.
 
Major Surgical or Invasive Procedure:
None performed 

attach
 
Pertinent Results:
RELEVANT LABS
=========================

___ 06:05PM BLOOD WBC-7.0 RBC-4.64 Hgb-15.3 Hct-46.6 
MCV-100* MCH-33.0* MCHC-32.8 RDW-12.7 RDWSD-47.1* Plt ___
___ 06:16AM BLOOD WBC-7.3 RBC-3.91* Hgb-12.8* Hct-39.0* 
MCV-100* MCH-32.7* MCHC-32.8 RDW-12.9 RDWSD-47.2* Plt ___
___ 06:05PM BLOOD Neuts-50.2 ___ Monos-12.8 
Eos-12.6* Baso-1.1* Im ___ AbsNeut-3.53 AbsLymp-1.62 
AbsMono-0.90* AbsEos-0.89* AbsBaso-0.08
___ 06:05PM BLOOD Glucose-92 UreaN-35* Creat-7.1* Na-139 
K-4.6 Cl-92* HCO3-26 AnGap-21*
___ 06:16AM BLOOD Glucose-97 UreaN-72* Creat-9.1* Na-141 
K-4.5 Cl-101 HCO3-19* AnGap-21*
___ 06:03AM BLOOD Calcium-9.6 Phos-7.3* Mg-2.8*
___ 06:16AM BLOOD Calcium-9.7 Phos-7.7* Mg-2.6
___ 06:03AM BLOOD HBsAg-NEG HBsAb-POS HBcAb-POS*
___ 01:10PM BLOOD HAV Ab-POS*
___ 06:03AM BLOOD HCV Ab-POS*
___ 01:10PM BLOOD HCV VL-PND

IMAGING
======================

CXR
IMPRESSION:  
  
Hyperinflated lungs without signs of pneumonia. 

MICROBIOLOGY
=====================
None ordered or pending. 
 
Brief Hospital Course:
SUMMARY
========
Mr. ___ is a ___ man with a history of end-stage 
renal disease on hemodialysis and COPD, presenting with a 
one-week history of increasing shortness of breath and dyspnea 
on exertion concerning for COPD exacerbation. He was initially 
started on O2 nasal cannula and then was rapidly successfully 
weaned to room air with 90-95% on room air, 90-91% with 
ambulation. He was started on a 5 day burst of prednisone for 
treatment of COPD exacerbation. His current exacerbation (and 
some of the others this year) are likely due to medication 
non-adherence, given his inability to afford his medications. He 
was helped by our prescription assistance team to help apply for 
Mass Health and secure ___ year free/subsidized prescriptions for 
ProAir (albuterol sulfate), Advair (fluticasone-salmeterol), and 
Spiriva (tiotropium bromide). In addition, patient received 1x 
HD session during this hospitalization. He also tested positive 
for Hepatitis C, of which he was aware.

TRANSITIONAL ISSUES
============================
[] Patient has severe COPD, with difficulty affording the 
required ___ treatments. During this admission, the 
prescription assistance team helped him apply for ___ year 
subsidized medications and ___. This may likely continue 
to be an issue.
[] He would like to consolidate his care at ___, starting with 
PCP. He will likely need to be connected to nephrology and 
pulmonology.
[] Patient may benefit from outpatient PFTs to evaluate COPD.
[] He was found to test positive for Hepatitis C antibody; 
Hepatitis C viral load pending at discharge. Patient was aware 
of this diagnosis from the past. Consider referring to 
hepatology for hepatitis C treatment.

ACUTE ISSUES:
=============
#COPD Exacerbation
Patient's current exacerbation is likely due to medication 
non-adherence, given his inability to afford his medications. He 
has responded well to DuoNebs. O2 sat 90-95% on room air, 90-91% 
with ambulation. Patient was seen by social work regarding 
issues with insurance and barriers to affording his medications. 
Prescription assistance team will be helping patient apply for 
Mass Health and secure ___ year free/subsidized of ProAir 
(albuterol sulfate), Advair (fluticasone-salmeterol), and 
Spiriva (tiotropium bromide). He was started on prednisone 40mg 
burst for 5 days, which will end ___. We would recommend 
outpatient PFTs when patient is better established with primary 
care doctor/pulmonologist.

#ESRD on HD
On ___ schedule. He denies any swelling or symptoms of fluid 
overload. No history of kidney transplant.

#Hepatitis C
HCV antibody positive. Labs pending on discharge: Hep C viral 
load

CHRONIC ISSUES:
===============
#Hypertension
Continued home amlodipine and labetalol.

#Constipation
Continue home bowel regimen.

#Hypothyroidism
Continue home levothyroxine.

Contact: None on file
Code: Full Code, presumed
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. amLODIPine 10 mg PO DAILY 
2. Albuterol 0.083% Neb Soln 1 NEB IH Q4H:PRN wheezing 
3. Albuterol Inhaler 2 PUFF IH Q6H:PRN wheezing 
4. Aspirin 81 mg PO DAILY 
5. Fluticasone-Salmeterol Diskus (250/50)  1 INH IH BID 
6. Ipratropium-Albuterol Neb 1 NEB NEB Q6H:PRN wheezing 
7. Labetalol 100 mg PO BID 
8. Levothyroxine Sodium 50 mcg PO DAILY 
9. Omeprazole 20 mg PO DAILY 
10. Ranitidine 150 mg PO BID 
11. Tiotropium Bromide 1 CAP IH DAILY 
12. Velphoro (sucroferric oxyhydroxide) 500 mg oral DAILY 
13. Polyethylene Glycol 17 g PO DAILY:PRN Constipation - Third 
Line 
14. Visine Dry Eye Relief (peg 400-hypromellose-glycerin) 
___ % ophthalmic (eye) DAILY 
15. Nicotine Patch 21 mg/day TD DAILY 
16. LOPERamide 2 mg PO QID:PRN diarrhea 
17. Bisacodyl 10 mg PO DAILY:PRN Constipation - Second Line 
18. Docusate Sodium 100 mg PO BID:PRN Constipation - Second Line 

19. Calcitriol 0.25 mcg PO DAILY 

 
Discharge Medications:
1.  PredniSONE 40 mg PO DAILY Duration: 3 Doses 
RX *prednisone 20 mg 2 tablet(s) by mouth once a day Disp #*6 
Tablet Refills:*0 
2.  Albuterol 0.083% Neb Soln 1 NEB IH Q4H:PRN wheezing 
RX *albuterol sulfate [ProAir HFA] 90 mcg 1 neb Q4H:PRN Disp #*1 
Inhaler Refills:*3 
3.  Albuterol Inhaler 2 PUFF IH Q6H:PRN wheezing 
RX *albuterol sulfate 90 mcg 1 inhaler q6H:PRN Disp #*1 Inhaler 
Refills:*0 
4.  amLODIPine 10 mg PO DAILY  
5.  Aspirin 81 mg PO DAILY  
6.  Bisacodyl 10 mg PO DAILY:PRN Constipation - Second Line  
7.  Calcitriol 0.25 mcg PO DAILY  
8.  Docusate Sodium 100 mg PO BID:PRN Constipation - Second Line 
 
9.  Fluticasone-Salmeterol Diskus (250/50)  1 INH IH BID 
RX *fluticasone propion-salmeterol [Advair Diskus] 250 mcg-50 
mcg/dose 1 package twice a day Disp #*1 Disk Refills:*3 
10.  Ipratropium-Albuterol Neb 1 NEB NEB Q6H:PRN wheezing 
RX *ipratropium-albuterol 0.5 mg-3 mg (2.5 mg base)/3 mL 1 
package every 6 hours as necessary Disp #*1 Ampule Refills:*0 
11.  Labetalol 100 mg PO BID  
12.  Levothyroxine Sodium 50 mcg PO DAILY  
13.  LOPERamide 2 mg PO QID:PRN diarrhea  
14.  Nicotine Patch 21 mg/day TD DAILY  
15.  Omeprazole 20 mg PO DAILY  
16.  Polyethylene Glycol 17 g PO DAILY:PRN Constipation - Third 
Line  
17.  Ranitidine 150 mg PO BID  
18.  Tiotropium Bromide 1 CAP IH DAILY 
RX *tiotropium bromide [Spiriva Respimat] 1.25 mcg/actuation 1 
package 1 cap daily Disp #*1 Package Refills:*3 
19.  Velphoro (sucroferric oxyhydroxide) 500 mg oral DAILY  
20.  Visine Dry Eye Relief (peg 400-hypromellose-glycerin) 
___ % ophthalmic (eye) DAILY  

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
PRIMARY DIAGNOSES
========================
COPD
ESRD on HD 
Hepatitis C

CHRONIC ISSUES
===================
Hypertension
Constipation
Hypothyroidism

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,

It was a pleasure taking care of you here at ___!

WHY WAS I IN THE HOSPITAL?
- You were feeling short of breath. 

WHAT HAPPENED TO ME IN THE HOSPITAL?
- You were treated with nebulizers and inhalers.
- You were weaned off of oxygen back to room air. 
- You were started on steroids for 5 days to help with your 
COPD. 
- You will be connected with ___ for assistance with 
affording your medications for the next year. 

WHAT SHOULD I DO WHEN I GO HOME?
- You should continue to take your medications.
- We have set you up with a new primary care doctor here at 
___. We would recommend that you continue with your current 
nephrologist (kidney doctor) and dialysis ___ now; if you 
would like to switch your kidney care to ___, please mention 
this to your primary care doctor, and he can help arrange this.
- You should ask your primary care doctor about being referred 
to a liver doctor to cure your hepatitis C. 
- You should work with physical therapy to modify day to day 
routines to prevent acute shortness of breath given your COPD. 

We wish you the best!
YOUR ___ CARE TEAM 
 
Followup Instructions:
___